US06632962B2
Step B: 3-Benzoylamino-5-fluoro-4-oxo-pentanoic Acid
Trifluoroacetic acid (TFA) (10 ml) was added to a stirred ice cold solution of above prepared 3-benzoylamino-5-fluoro-4-oxo-pentanoic acid tert-butyl ester (600 mg, 1.94 mmol) in dry DCM (10 ml). The mixture was stirred at 0° C. for 0.5 h then at r.t. for 0.5 h. The mixture was concentrated under reduced pressure and the residue redissolved in dry DCM. This process was repeated several times in order to remove excess TFA. The resulting gum was triturated with Et2O. Filtration of the resulting suspension yielded the title compound as finely divided white powder (333 mg, 68%): 1H NMR (DMSO) δ 12.6 (1H, br s), 8.8 (1H, br m), 7.85 (2H, m), 7.50 (3H, m), 4.90 (2H, m), 4.80 (1H, m), 2.80 (2H, m); 13C NMR (DMSO) δ 166.97, 133.72, 132.5, 128.70, 127.83, 52.64, 34.58; 19F NMR (DMSO) δ −226.66(m), −230.34(m), −232.24(m); Acc. Mass; Calc. 254.0828, Found 254.0793.

reactant | Trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-benzoylamino-5-fluoro-4-oxo-pentanoic acid tert-butyl ester | 1.94 mmol, 600 mg | C(C)(C)(C)OC(CC(C(CF)=O)NC(C1=CC=CC=C1)=O)=O | C16H20FNO4
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-Benzoylamino-5-fluoro-4-oxo-pentanoic Acid | C(C1=CC=CC=C1)(=O)NC(CC(=O)O)C(CF)=O | C12H12FNO4
